US05411989
trans-N-acetyl-4-nitroxycyclohexylamine
trans-N-ethyl-N-acetyl-4-nitroxycyclohexylamine from trans-N-ethyl-4-nitroxycyclohexylamine melting point: 68°-69° C. (ether), yield: 35% of theory.

reactant | trans-N-ethyl-N-acetyl-4-nitroxycyclohexylamine | C(C)N(C(C)=O)[C@@H]1CC[C@H](CC1)O[N+](=O)[O-] | C10H18N2O4
reactant | trans-N-ethyl-4-nitroxycyclohexylamine | C(C)N[C@@H]1CC[C@H](CC1)O[N+](=O)[O-] | C8H16N2O3
product | trans-N-acetyl-4-nitroxycyclohexylamine | yield: 35% | C(C)(=O)N[C@@H]1CC[C@H](CC1)O[N+](=O)[O-] | C8H14N2O4
